US09376418B2
A mixture of ethyl 2,2-difluoro-3-{[(methylsulfanyl)carbonothioyl]oxy}-3-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]propanoate (68.5 mg, 0.120 mmol), anhydrous dioxane (5.00 mL), diphenylphosphine oxide (25.6 mg, 0.127 mmol) and di-tert-butyl peroxide (10.0 μL, 0.054 mmol) was heated to reflux for 6 hours under Ar(g). The reaction mixture was concentrate under reduced pressure and the residue was purified by reverse phase HPLC to afford ethyl 2,2-difluoro-3-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]propanoate. MS APCI C22H20F5N4O2 [M+H]+ 467. found 467.

reactant | ethyl 2,2-difluoro-3-{[(methylsulfanyl)carbonothioyl]oxy}-3-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]propanoate | 0.120 mmol, 68.5 mg | FC(C(=O)OCC)(C(C1=NC=C(C=C1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)OC(=S)SC)F | C24H21F5N4O3S2
reactant | diphenylphosphine oxide | 0.127 mmol, 25.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)=O | C12H11OP
reactant | di-tert-butyl peroxide | 0.054 mmol, 10.0 μL | C(C)(C)(C)OOC(C)(C)C | C8H18O2
solvent | dioxane | 5.00 mL | O1CCOCC1 | C4H8O2
product | ethyl 2,2-difluoro-3-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]propanoate | FC(C(=O)OCC)(CC1=NC=C(C=C1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)F | C22H19F5N4O2
